Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Drug Allergy Information on File
 
Attending: ___.
 
Chief Complaint:
Fevers, cough. hypoxia, leukocystosis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female with PMH of heroin/polysubstance abuse, Hep C, 
asthma, schizoaffective disorder, suicide attempt who presented 
from ___ to ___ with cough, leukocytosis, hypoxia in 
setting of recent heroin overdose.  Patient had chills, 
productive sputum.
Patient reportedly had unintentional heroin dose on ___ and was 
admitted to ___ for opiate detox.
 
Past Medical History:
Polysubtstance abuse
Asthma
Hep C
Schizoaffective disorder
Hx od Suicide attempt
Pleurisy
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Vitals:  T 98.1  BP 94/60 HR 77 RR 18 O2sat 92% RA
GENERAL:  Depressed affect.  Responds to commands but sleepy and 
detached.
HEART: RRR, nml s1s2, no mr,g.
LUNGS: No wheezes or rales, good air movement.
ABD: +BS, soft, NT, ND.
EXT: 2+radial pulses.

 
Pertinent Results:
___ 01:50AM   WBC-13.5* RBC-4.22 HGB-13.4 HCT-37.6 MCV-89 
MCH-31.8 MCHC-35.7* RDW-13.6
___ 01:50AM   NEUTS-65.9 ___ MONOS-3.0 EOS-1.4 
BASOS-0.2
___ 01:50AM   PLT COUNT-312
___ 01:50AM   GLUCOSE-86 UREA N-11 CREAT-0.8 SODIUM-137 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-27 ANION GAP-11

___:  2view CXR: preliminary read.  Low lung volumes, 
bibasilar opacity may represent atelectasis versus infiltrate.
 
Brief Hospital Course:
___ yo female with PMH of heroin/polysubstance abuse, Hep C, 
asthma, schizoaffective disorder, suicide attempt who presented 
from ___ to ___ with cough, leukocytosis, hypoxia in 
setting of recent heroin overdose consistent with aspiration 
pneumonia.

Aspiration pneumonia)  Patient's initial leukocytosis of 19 
improved.  Patient to complete a 7 day course of levofloxacin 
750 mg po qd.  Patient satting comfortably on room air at 92% RA 
or greater.  As the patient's pneumonia improves, her breathing 
will improve.

Heroin abuse/opiate withdrawal)  At ___ patient was on a 
methadone taper 15 mg on ___, 10 mg methadone ___ and 5 mg 
methadone on ___.

Patient discharged to ___ for dual diagnosis program.
 
Discharge Medications:
1. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO every six (6) 
hours as needed for pain.  
2. Milk of Magnesia 800 mg/5 mL Suspension Sig: ___ ml PO four 
times a day as needed for constipation.  
3. Trazodone 50 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
4. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) puffs Inhalation every four (4) hours as needed for 
shortness of breath or wheezing.  
5. Loperamide 2 mg Tablet Sig: One (1) Tablet PO use as 
directed.  
6. DiCYCLOmine 20 mg Tablet Sig: One (1) Tablet PO QID (4 times 
a day) as needed for GI cramps.  
7. Methocarbamol 500 mg Tablet Sig: 1.5 Tablets PO QID (4 times 
a day) as needed for muscle cramps.  
8. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 6 days.  
9. trilaton  Sig: Four (4) mg  three times a day: Unclear what 
this med is looks like Trilaton on ___ paperwork.  
10. Paxil 10 mg Tablet Sig: One (1) Tablet PO QAM.  
11. Risperidone 3 mg Tablet Sig: One (1) Tablet PO at bedtime.  
12. Advair Diskus 250-50 mcg/Dose Disk with Device Sig: One (1) 
puff Inhalation twice a day.  
13. Neurontin 300 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
14. Methadone 5 mg Tablet Sig: One (1) Tablet PO once a day for 
2 days: Methadone taper
Methadone 10 mg then 5 mg then off.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aspiration Pneumonia
Heroin Overdose
Polysubstance Abuse
Schizoaffective disorder
 
Discharge Condition:
Vital Signs Stable
 
Discharge Instructions:
Patient to return to ED if she has very high fevers, 
significantly worsening SOB, coughing up profuse blood, 
confusion.
 
Followup Instructions:
___